current_source_t_network - fault test
I1 0 a DC 0.005
R_s a b 505.942918
R_p b 0 1000.326078
R_L b c 51818.269037
R_leak c 0 9934505.875896
.op
.control
run
print v(a) v(b) v(c)
print @r_s[i] @r_p[i] @r_l[i] @r_leak[i]
print @i1[i]
.endc
.end
